US09029399B2
Preparation of 1-(2-chloropyridin-4-yl)-3-[4-(1-hydroxy cyclopentyl)-pyridin-3-yl]-imidazolidin-2-one (35A)
Using analogous reagents and reaction conditions as described in Example 1 above, 1-(2-chloro-pyridin-4-yl)imidazolidin-2-one (I-33b: 100 mg, 0.5 mmol) was reacted with 1-(3-bromo-pyridin-4-yl)-cyclopentanol (I-34a: 135 mg, 0.558 mmol), copper iodide (9.6 mg, 0.05 mmol), trans-N,N′-dimethylcyclohexane-1,2-diamine (21.62 mg, 0.15 mmol), potassium phosphate (322.87 mg, 1.52 mmol) and 1,4-dioxane (5 mL) to yield the crude product. Purification by preparative HPLC afforded 20 mg of the product (11% yield).

reactant | 1-(2-chloro-pyridin-4-yl)imidazolidin-2-one | 0.5 mmol, 100 mg | ClC1=NC=CC(=C1)N1C(NCC1)=O | C8H8ClN3O
reactant | 1-(3-bromo-pyridin-4-yl)-cyclopentanol | 0.558 mmol, 135 mg | BrC=1C=NC=CC1C1(CCCC1)O | C10H12BrNO
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.15 mmol, 21.62 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | potassium phosphate | 1.52 mmol, 322.87 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper iodide | 0.05 mmol, 9.6 mg | [Cu](I)I
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1-(2-chloropyridin-4-yl)-3-[4-(1-hydroxy cyclopentyl)-pyridin-3-yl]-imidazolidin-2-one | 20 mg, 11% yield | ClC1=NC=CC(=C1)N1C(N(CC1)C=1C=NC=CC1C1(CCCC1)O)=O | C18H19ClN4O2
